US05420143
A mixture of 2.43 g (13 mmol) of 2-cyano-7- hydroxy-4-oxo-4H-1-benzopyran, 2.04 g (13 mmol) of 3-chlorobromopropane and 1.80 g (13 mmol) of potassium carbonate was refluxed in 250 ml dry acetone overnight with heating. After evaporating to dryness, the residue was extracted with chloroform (3×100 ml), and dried with sodium sulfate. The chloroform solution was evaporated to one-third of the original volume to which was added n-hexane. The white precipitate was collected by filtration, washed with n-hexane and dried in vacuum to obtain 2-cyano-7-(3-chloropropyloxy)-4-oxo-4H-1-benzopyran (yield 51%).

reactant | 2-cyano-7- hydroxy-4-oxo-4H-1-benzopyran | 13 mmol, 2.43 g | C(#N)C=1OC2=C(C(C1)=O)C=CC(=C2)O | C10H5NO3
reactant | 3-chlorobromopropane | 13 mmol, 2.04 g | ClCCCBr | C3H6BrCl
reactant | potassium carbonate | 13 mmol, 1.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 2-cyano-7-(3-chloropropyloxy)-4-oxo-4H-1-benzopyran | yield 51% | C(#N)C=1OC2=C(C(C1)=O)C=CC(=C2)OCCCCl | C13H10ClNO3
